US07285558B2
(b) 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile
5-formyl-1-methyl-1H-pyrrole-3-carbonitrile (0.032 g) and piperidine (0.05 ml) was added to a solution of 5-chloro-1H-indole-3-carbaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone (0.075 g) in dimethylformamide (1.5 ml). The solution was heated at 50° C. for 5 hours. Reaction cooled to room temperature and purified on preparative HPLC to give the title compound (0.058 g). Mass: 490.16 (M+H).

reactant | 5-formyl-1-methyl-1H-pyrrole-3-carbonitrile | 0.032 g | C(=O)C1=CC(=CN1C)C#N | C7H6N2O
reactant | piperidine | 0.05 ml | N1CCCCC1 | C5H11N
reactant | 5-chloro-1H-indole-3-carbaldehyde (3-isobutyl-1-methyl-2,6-dioxo-1,2,3,6-tetrahydropyrimidin-4-yl)hydrazone | 0.075 g | C(C(C)C)N1C(N(C(C=C1NN=CC1=CNC2=CC=C(C=C12)Cl)=O)C)=O | C18H20ClN5O2
solvent | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 5-{2-[(5-chloro-1H-indol-3-yl)methyl]-7-isobutyl-5-methyl-4,6-dioxo-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-d]pyrimidin-3-yl}-1-methyl-1H-pyrrole-3-carbonitrile | 0.058 g | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C1=CC(=CN1C)C#N)=O)C)=O)CC(C)C | C25H24ClN7O2
